US07737166B2
7-Fluoro-2-[(2-hydroxyethyl)(methyl)amino]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-138)
2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile (I-130) (0.20 g, 0.70 mmol) was dissolved in dichloromethane (10 ml), and diisopropylethylamine (0.13 ml, 0.76 mmol) and N-methylethanolamine (62.0 μl, 0.78 mmol) were added. After heating under reflux for 3 hours, N-methylethanolamine (62.0 μl, 0.78 mmol) was added. After heated under reflux for 3 hours, this was diluted with dichloromethane. After washing with water and drying over anhydrous sodium sulfate, the solvent was evaporated away under reduced pressure, and the resulting residue was purified by silica gel column chromatography (dichloromethane:methanol=40:1) to obtain a pale yellow oil (0.21 g, 93%).

reactant | 2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile | 0.70 mmol, 0.20 g | ClC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C15H8ClFN2O
reactant | diisopropylethylamine | 0.76 mmol, 0.13 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-methylethanolamine | 0.78 mmol, 62.0 μl | CNCCO | C3H9NO
reactant | N-methylethanolamine | 0.78 mmol, 62.0 μl | CNCCO | C3H9NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 7-Fluoro-2-[(2-hydroxyethyl)(methyl)amino]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 0.21 g, 93% | FC=1C(=C(C(=C2N=C(OC21)N(C)CCO)C#N)C)C2=CC=CC=C2 | C18H16FN3O2
